US07977496B2
1.3 g of sodium chloride and 4.65 g of water were mixed, and the resulting mixture was cooled to −10 degree centigrade. N,O-dimethyl-N′-nitroisourea (4.5 g, 0.03 mole) was introduced into the above solution, and 0.58 g (4.64 mmole) of 32% NaOH was further added to the suspension and stirred. Thereafter, [(2-chloro-5-pyridyl)methyl]amine (4.93 g, 0.03 mole) was introduced dropwise to the suspension. Sodium chloride was dissolved in water with 78% of the saturated solubility at a water temperature of −10 degree centigrade. The solution was stirred at −10 degree centigrade for 4 hours and then heated to 20 degree centigrade, and further stirred for 6 hours. Then, 35% hydrochloric acid (0.7 g, 6.71 mmole) was added to the suspension so that the pH became not more than 4. The resulting solution was extracted with ethyl acetate and concentrated under a reduced pressure, and then recrystallized. Thus, 6.5 g of a 1-[(2-chloro-5-pyridyl)methyl]-3-methyl-2-nitroguanidine was obtained. The isolated yield at this time was 81%.

reactant | sodium chloride | 1.3 g | [Cl-].[Na+]
reactant | N,O-dimethyl-N′-nitroisourea | 0.03 mole, 4.5 g | CNC(OC)=N[N+](=O)[O-] | C3H7N3O3
reactant | NaOH | 4.64 mmole, 0.58 g | [OH-].[Na+]
reactant | [(2-chloro-5-pyridyl)methyl]amine | 0.03 mole, 4.93 g | ClC1=NC=C(C=C1)CN | C6H7ClN2
reactant | hydrochloric acid | 6.71 mmole, 0.7 g | Cl | ClH
solvent | water | O | H2O
solvent | water | 4.65 g | O | H2O
product | 1-[(2-chloro-5-pyridyl)methyl]-3-methyl-2-nitroguanidine | 6.5 g | ClC1=NC=C(C=C1)CNC(=N[N+](=O)[O-])NC | C8H10ClN5O2
